US07439393B2
iii) (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[2-hydroxyethoxy]-hexyl}-1,3-oxazolidin-2-one
A solution of (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (1.067 g) in DMF (10 ml) under nitrogen was treated with sodium hydride (60% dispersion in mineral oil, 222 mg) and the mixture was stirred at 20° for 15 min. A solution of 2-[(6-bromohexyl)oxy]ethanol (1.157 g) in DMF (1 ml) was added and the mixture was stirred at 20° for 3.5 h. Phosphate buffer solution (pH 6.5, 20 ml) and water (30 ml) were added. The mixture was extracted with EtOAc (2×20 ml) and the combined extracts were washed with water (30 ml) and dried (Na2SO4). Solvent evaporation in vacuo gave a residue which was purified by flash chromatography on silica gel. Elution with MeOH-EtOAc (1:9) gave the title compound (1.42 g). LCMS RT=2.90 min, ES+ve 394 (MH)+.

reactant | (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 1.067 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CNC(O2)=O)C | C13H15NO4
reactant | sodium hydride | 222 mg | [H-].[Na+]
reactant | 2-[(6-bromohexyl)oxy]ethanol | 1.157 g | BrCCCCCCOCCO | C8H17BrO2
reactant | Phosphate | 20 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[2-hydroxyethoxy]-hexyl}-1,3-oxazolidin-2-one | 1.42 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCO)C | C21H31NO6
